US07855216B2
Step 1: 3-(2-Fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
To a stirred solution of 3-(2-fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (147.0 mg, 0.25 mmol) in anhydrous THF (1.0 mL) and MeOD (3.0 mL) under N2 was added freshly prepared 1N aqueous sodium hydroxide (0.51 ml, 2.0 eq). The reaction mixture was stirred at 65° C. for 1 h. The resultant reaction mixture was evaporated in vacuo and azeotroped with toluene (3×5 ml) to give a yellow foam. The yellow foam was redissolved in anhydrous THF (7.9 ml). EDCI (103.3 mg, 0.54 mmol, 2.2 eq) and HOBT (72.8 mg, 0.54 mmol, 2.2 eq) were added. The reaction mixture was stirred at room temperature. After 5 minutes O-(2-vinyloxy-ethyl)-hydroxylamine (50.5 mg, 0.49 mmol, 2.0 eq) and DIPEA (0.19 mL, 1.10 mmol, 4.5 eq) were added, and the reaction mixture was stirred at ambient temperature under N2 for 17 h. The reaction mixture was absorbed onto silica and purified by flash column chromatography (silica, ISCO, 45 mL/min, Hexane:EtOAc, gradient 100:1 to 1:100) to give the desired product as a yellow solid (47.2 mg, 30.3%). 1H-NMR (400 MHz, CDCl3) δ ppm 8.60 (s, 1H), 8.40 (d, J=5.95 Hz, 1H), 7.54-7.36 (m, 2H), 7.21 (d, J=8.48 Hz, 1H), 6.43-6.34 (m, 2H), 6.20 (broad s, 1H), 5.49 (s, 2H), 4.71 (m, 1H), 4.26-4.11 (m, 4H), 4.03 (dd, J=6.80, 2.4 Hz, 1H), 3.93-3.86 (m, 2H), 3.80-3.72 (m, 1H), 3.48 (m, 3H), 1.82-1.64 (m, 2H), 1.62-1.44 (m, 4H); LC-MS (method C): [M+H]+=635.1, RT=0.839 min.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.25 mmol, 147.0 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1CC#CCOC1OCCCC1)NC1=C(C=C(C=C1)I)F | C25H25FIN3O4
reactant | sodium hydroxide | 1N, 0.51 ml, 2.0 eq | [OH-].[Na+]
reactant | EDCI | 0.54 mmol, 103.3 mg, 2.2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.54 mmol, 72.8 mg, 2.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.49 mmol, 50.5 mg, 2.0 eq | C(=C)OCCON | C4H9NO2
reactant | DIPEA | 1.10 mmol, 0.19 mL, 4.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | MeOD | 3.0 mL | CO[2H] | CH4O
solvent | THF | 7.9 ml | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 47.2 mg, 30.3% | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1CC#CCOC1OCCCC1)NC1=C(C=C(C=C1)I)F | C27H28FIN4O5
